US08198279B2
N-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)benzamide (AA-001)
Method H1: A solution of AlMe3 (solution in toluene 2M, 0.85 mL, 1.68 mmol,) was added dropwise to a cooled (0 C) solution of 3-tert-butyl-1-phenyl-1H-pyrazol-5-amine (362 mg, 1.68 mmol) in THF (5.0 mL). When the addition was complete, the mixture was allowed to warm to room temperature and stirring was continued for 30 minutes. Then methyl 3-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)benzoate (100 mg, 0.336 mmol) was added and the mixture was heated under reflux for 19 h. The mixture was cooled to room temperature and carefully quenched with 5% aq HCl (3.0 mL). After evaporation of solvent, the residue was retaken in CH2Cl2, washed with saturated solution of NaHCO3 and dried over MgSO4 and evaporated under vacuum. The obtained residue was chromatographied (eluent: CH2Cl2/EtOAc: 2/1 towards 1/3) and the title compound was obtained as a slightly yellow solid (29 mg, 18%).

reactant | AlMe3 | 1.68 mmol, 2M, 0.85 mL | C[Al](C)C
reactant | 3-tert-butyl-1-phenyl-1H-pyrazol-5-amine | 1.68 mmol, 362 mg | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=CC=C1 | C13H17N3
reactant | methyl 3-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)benzoate | 0.336 mmol, 100 mg | O=C1C=NC2=C(N1)N=CC=C2OC=2C=C(C(=O)OC)C=CC2 | C15H11N3O4
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | N-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)benzamide | C(C)(C)(C)C1=NN(C(=C1)NC(C1=CC(=CC=C1)OC1=CC=NC=2NC(C=NC21)=O)=O)C2=CC=CC=C2 | C27H24N6O3
